US06051570
2,3,4-Trifluoroaniline (36.7 g, 0.25 mol) was acetylated using acetic anhydride (105 mL, 1.25 mol), using an analogous procedure to that described in preparation 1 (step 1) to yield N-(2,3,4-trifluorophenyl)acetamide (39.0 g, 83%) as a white solid. mp 87-88° C. ; IR (KBr) 3271, 1673, 1514 cm-1 ; 1H NMR (CDCl3) δ 2.16 (s, 3H, CH3), 6.90 (q, J=4.3 Hz, 1H), 7.60 (brs, 1H, NH), 7.90 (m, 1H); Mass (m/z) 189 (M+.).

reactant | 2,3,4-Trifluoroaniline | 0.25 mol, 36.7 g | FC1=C(N)C=CC(=C1F)F | C6H4F3N
reactant | acetic anhydride | 1.25 mol, 105 mL | C(C)(=O)OC(C)=O | C4H6O3
product | N-(2,3,4-trifluorophenyl)acetamide | 39.0 g, 83% | FC1=C(C=CC(=C1F)F)NC(C)=O | C8H6F3NO
